US05736534
To 5-methoxy-indole (4.55 g, 31 mmol) suspended in THF (10 mL) at 0°-5° C. was added borane/pyridine complex (15.5 ml of 8M in BH3) followed by dropwise aqueous 6N HCl (50 mL) over 15 min. During the addition THF was added dropwise as required to control foaming. The mixture was stirred 45 min at 20° C., the pH was raised to ~10 by the addition of aqueous NaOH and Na2CO3, and the mixture was extracted with CHCl3. The organic extracts were washed with brine at pH 9-10 dried over MgSO4(s), filtered, and concentrated in vacuo to afford 5-methoxy-indoline (96%; GC-MS: RT=min, M+ =149) which was >97% purity by 1H NMR. This material could be used without further purification, or precipitated pure as its hydrochloride salt by the addition of 1 eq. of 1N HCl in Et2O to a solution of the free base in EtOAc or ether.

reactant | 5-methoxy-indole | 31 mmol, 4.55 g | COC=1C=C2C=CNC2=CC1 | C9H9NO
reactant | HCl | 6N, 50 mL | Cl | ClH
reactant | NaOH | [OH-].[Na+]
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-methoxy-indoline | 96% | COC=1C=C2CCNC2=CC1 | C9H11NO
